US07405314B2
S-Dimethylarsino Glutathione.
In a 500 mL flask, 7 g of glutathione was used as received from the Aldrich Chemical Co., purity 98% and dissolved in 250 mL of 1,2-dimethoxyethane. To this solution was added 3.3 g of dimethylchloroarsine. This was followed by the addition of 3.5 g of pyridine (redistilled after drying over NaOH pellets). The solution was refluxed for one hour after which time it was stirred at room temperature for three hours.

reactant | glutathione | 7 g | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | dimethylchloroarsine | 3.3 g | C[As](Cl)C | C2H6AsCl
reactant | pyridine | 3.5 g | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dimethoxyethane | 250 mL | COCCOC | C4H10O2
product | S-Dimethylarsino Glutathione | C[As](SC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O)C | C12H22AsN3O6S
